*******************************************************************************
*****************************************************************
* NXP PSMN8R0_40PS
*
* Polarity N-Channel
* Ratings 40V/7.60E-03OHMS/25A
*
* Date Created Fri Feb 19 08:48:31 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R0_40PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.31887015786126e-09
RLS2 SOURCE 8 5.82795143938828
RLS1 8 7 0.000787717746675436

RDS 7 4 26666.6666666667 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00341857903728126 TC=0.0120848617796789,-2.67877523738348e-05
RBD 9 4 0.00124249216350862 TC=0.0120848617796789,-2.67877523738348e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.067e-09
RG 1 2 1.09784058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1215
+ -8	1212
+ -6	1209
+ -4	1158
+ -2	790
+ 0	480.5
+ 0.1	428
+ 0.2	403
+ 0.5	345
+ 1	293
+ 2	249
+ 5	196
+ 10	166
+ 12	159
+ 20	143
+ 25	136



.MODEL MINT NMOS(Vto=3.76021983996793 Kp=5.3002e+01 Nfs=980000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=4.0318383655333e-13
+ N=1 M=0.59 VJ=0.63 Fc=0.5 Cjo=1.003e-09 Tt=3e-08)

.ENDS

*******************************************************************************
